US05164402
A. 7-(1-[(N-acetyl)aminomethyl]-3-azabicyclo[3.1.0]-hex-3-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester
A mixture of 1-[(N-acetyl)aminomethyl]-3-azabicyclo[3.1.0]hexane (115.5 mg, 0.75 mmol) and triethylamine (312 μl, 2.25 mmol) in acetonitrile (20 ml) was treated with the ethyl ester of 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (283 mg, 0.74 mmol) and heated to 80° for 20 hours. Additional 1-(N-acetyl)-aminomethyl-3-azabicyclo[3.1.0]hexane (97 mg) was added portionwise over 2.5 hours until thin layer chromatography indicated the absence of starting naphthyridine. The reaction mixture was concentrated in vacuo, and the residue chromatographed on silica gel (eluant: 189:10:1 chloroform:methanol:concentrated ammonium hydroxide). The title product was obtained as a colorless oil (280.3 mg, 0.56 mmol, 76% yield).

reactant | 1-[(N-acetyl)aminomethyl]-3-azabicyclo[3.1.0]hexane | 0.75 mmol, 115.5 mg | C(C)(=O)NCC12CNCC2C1 | C8H14N2O
reactant | triethylamine | 2.25 mmol, 312 μl | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.74 mmol, 283 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | C15H6ClF3N2O3
reactant | naphthyridine | N1=CC=CC2=CC=CN=C12 | C8H6N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-(1-[(N-acetyl)aminomethyl]-3-azabicyclo[3.1.0]-hex-3-yl)-6-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | C(C)(=O)NCC12CN(CC2C1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C25H23F3N4O4
